US07601744B2
1-(4-Chloro-phenyl)-3-(3-chloro-1-phenyl-propyl)-1,3-dihydro-benzo[1,2,5]-thiadiazole 2,2-dioxide (0.12 g) was dissolved in methylamine (8M in ethanol, 20 mL), sodium iodide (58 mg, 0.39 mmol) was added and the mixture stirred for 96 hours. The mixture was concentrated in vacuo and purified via chromatography (silica, 5% methanol saturated with ammonia in chloroform) to give (3R)-3-[3-(4-chlorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methyl-3-phenylpropan-1-amine as a colorless oil. The freebase was dissolved in methanol (5 mL) and treated with 2N aqueous hydrochloric acid (1.0 equivalent) and concentrated. The residue was dissolved in water and lyophilized to give 130 mg (72%) (3R)-3-[3-(4-chlorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methyl-3-phenylpropan-1-amine as hydrochloride salt as a white powder. MS (ES) m/z 427.8.

reactant | 1-(4-Chloro-phenyl)-3-(3-chloro-1-phenyl-propyl)-1,3-dihydro-benzo[1,2,5]-thiadiazole 2,2-dioxide | 0.12 g | ClC1=CC=C(C=C1)N1C2=C(N(S1(=O)=O)C(CCCl)C1=CC=CC=C1)C=CC=C2 | C21H18Cl2N2O2S
reactant | sodium iodide | 0.39 mmol, 58 mg | [I-].[Na+]
reactant | methylamine | 8M, 20 mL | CN | CH5N
product | (3R)-3-[3-(4-chlorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methyl-3-phenylpropan-1-amine | ClC1=CC=C(C=C1)N1S(N(C2=C1C=CC=C2)[C@H](CCNC)C2=CC=CC=C2)(=O)=O | C22H22ClN3O2S
